US05703072
To a solution of 8-chloro-11-[(6S,8R)-8-benzoyl-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-oxazepine in methanol (5 mL) was added 1% aqueous sodium hydroxide. The reaction was stirred for 1 hour and the solvent removed under reduced pressure. The residue was dissolved in methylene chloride and washed with water, dried (MgSO4) and evaporated to dryness to give 3.5 mg (31%) of 8-chloro-11-[(6S,8R)-8-hydroxy-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-oxazepine as an off-white solid; mp 90°-92° C.; Rf(50% acetone/hexanes): 0.20; HRMS (FAB): MH+ of C20H20 N3O2Cl, calculated 370.1322, found 370.1327.

reactant | 8-chloro-11-[(6S,8R)-8-benzoyl-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-oxazepine | ClC1=CC2=C(OC3=C(C(=N2)N2CCN4C[C@@H](C[C@H]4C2)C(C2=CC=CC=C2)=O)C=CC=C3)C=C1 | C27H24ClN3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 8-chloro-11-[(6S,8R)-8-hydroxy-1,4-diazabicyclo[4.3.0]non-4-yl]-dibenz[b,f]-1,4-oxazepine | 3.5 mg, 31% | ClC1=CC2=C(OC3=C(C(=N2)N2CCN4C[C@@H](C[C@H]4C2)O)C=CC=C3)C=C1 | C20H20ClN3O2
